US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-S-(tert-butyl)-D-cysteine
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (20 mg, 0.037 mmol) and N-methylmorpholine (20 μl, 0.18 mmol) were dissolved in DMF (3 ml). TBTU (14.6 mg, 0.046 mmol) was added and the mixture was stirred at 30° C. for 45 minutes. S-(tert-Butyl)-D-cysteine hydrochloride (9.7 mg, 0.045 mmol) was added and the reaction mixture was stirred for 1.5 h. The formation of the ketone of the title compound was confirmed. M/z: 700.0. Methanol (2 ml) and sodium borohydride (14.3 mg, 0.38 mmol) were added and the mixture was stirred for 30 minutes. Ammonium acetate buffer (0.1M, 2 ml) was added and the mixture was concentrated. The residue was purified with preparative HPLC on a C8 column. A gradient from 20% to 45% MeCN in 0.1M N4OAc buffer was used as eluent. The MeCN was removed from the collected fraction under reduced pressure. The remaining water solution was acidified to pH 1 with HCl (1M) and extracted with DCM. The organic phase was concentrated under reduced pressure and the residue was dissolved in MeCN and water. After lyophilisation, the title compound was obtained as a white solid (16.5 mg, 65%). H-NMR (400 MHz, DMSO-d6): 1.21 (s, 9H), 2.71-2.78 (m, 1H), 2.82-2.86 (m, 3H), 2.74-2.80 (m, 2H), 2.18-2.26 (m, 1H), 4.27 (d, 0.5H), 4.30 (d, 0.5H), 4.51 (s, 2H), 2.67-2.76 (m, 1H), 5.03 (d, 0.5H), 5.05 (d, 0.5), 6.98 (d, 2H), 7.05-7.17 (m, 4H), 7.20-7.25 (m, 2H), 7.30-7.39 (m, 4H), 7.94-8.06 (b, 1H), 8.26 (t, 1H). M/z: 700.0 (M−H) and 702.1 (M+H).

reactant | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.037 mmol, 20 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | N-methylmorpholine | 0.18 mmol, 20 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.046 mmol, 14.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | S-(tert-Butyl)-D-cysteine hydrochloride | 0.045 mmol, 9.7 mg | Cl.C(C)(C)(C)SC[C@@H](N)C(=O)O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-S-(tert-butyl)-D-cysteine | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@H](CSC(C)(C)C)C(=O)O)C=C1 | C34H37F2N3O7S2
